US04970115
(b) Preparation and decomposition of bis(2-formyloxyethyl)dibutyltin:
The addition of dibutyltin dihydride to vinyl formate was carried out in a Pyrex® tube at 30°-35° C. by following the operating procedure of Example 5. The product was not isolated, because it decomposed as it was being formed.

reactant | dibutyltin dihydride | C(CCC)[SnH2]CCCC
reactant | vinyl formate | C(=O)OC=C | C3H4O2
product | bis(2-formyloxyethyl)dibutyltin | C(=O)OCC[Sn](CCCC)(CCCC)CCOC=O | InChI=1S/2C4H9.2C3H5O2.Sn/c2*1-3-4-2;2*1-2-5-3-4;/h2*1,3-4H2,2H3;2*3H,1-2H2;
